US04046909
The cyclohexylsulfamic acid salt of 1-n-butyl-2-iminopyrrolidine (15.97 g.; 0.05 mole) is converted to free base (7.01 g.; 0.05 mole) in the usual manner. After drying over K2CO3, the benzene solution is filtered through diatomaceous earth and 7.36 g. (0.05 mole) of 2,6-dimethylphenylisocyanate is added. The reaction mixture is stirred at room temperature for 31/2 hours and then evaporated to dryness in vacuo leaving an oily residue which crystallizes on cooling. Recrystallization from ethylacetate yields the pure product, 1-(1-n-butyl-2-pyrrolidylidene)-3-(2,6-dimethylphenyl)urea, m.p.=93°-95° C.

reactant | cyclohexylsulfamic acid | C1(CCCCC1)NS(O)(=O)=O | C6H13NO3S
reactant | 1-n-butyl-2-iminopyrrolidine | 0.05 mole, 15.97 g | C(CCC)N1C(CCC1)=N | C8H16N2
reactant | 2,6-dimethylphenylisocyanate | 0.05 mole | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
product | 1-(1-n-butyl-2-pyrrolidylidene)-3-(2,6-dimethylphenyl)urea | C(CCC)N1C(CCC1)=NC(=O)NC1=C(C=CC=C1C)C | C17H25N3O
